US05668158
N-[(1,1-dimethylethoxy)carbonyl]cycloleucine (100 g, 0.436 mol) is dissolved in tetrahydrofuran (1.0 L) and the solution is cooled in an ice/salt bath to -9° C. To this is added triethylamine (44.0 g, 0.436 mol) dropwise over a period of 10 minutes. This is followed by the addition of isobutyryl chloroformate (59.6 g, 0.436 mol) over a 15 minute period at which time the temperature rises to -5° C. After stirring for 30 minutes the temperature falls to -13° C. and at that time pulverized L-tyrosine ethyl ester monohydrochloride (107 g, 0.436 mol) is added as a solid in portions. To this suspension is added additional triethylamine (44.0 g, 0.436 mol) over a period of 15 minutes and the temperature rises -3° C. The mixture then is allowed to stir overnight at room temperature. The mixture is then filtered and the filter cake is washed with tetrahydrofuran (1×150 mL). The filtrate is then concentrated in vacuo (50° C., 40 Torr) to approximately 410 g and to this is added tetrahydrofuran (150 mL) for transfer purposes. To this concentrated solution is added heptane (800 mL) and the mixture is stirred overnight at ambient temperature and collected by filtration. The filter cake is washed with t-butyl methyl ether (1×450 mL) and dried at ambient temperature in vacuo (2 Torr) to obtain N-[[1-[[1,1-di-methylethoxy)carbonyl]amino]-1-cyclopentyl]carbonyl]-L-tyrosine ethyl ester, m.p. 162°-165° C.

reactant | N-[(1,1-dimethylethoxy)carbonyl]cycloleucine | 0.436 mol, 100 g | CC(C)(OC(=O)NC1(CCCC1)C(=O)O)C | C11H19NO4
reactant | triethylamine | 0.436 mol, 44.0 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloroformate | 0.436 mol, 59.6 g | ClC(=O)OC(C(C)C)=O | C5H7ClO3
reactant | L-tyrosine ethyl ester monohydrochloride | 0.436 mol, 107 g | Cl.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | triethylamine | 0.436 mol, 44.0 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1.0 L | O1CCCC1 | C4H8O
product | L-tyrosine ethyl ester | C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C11H15NO3
